US07285543B2
A solution of 2-amino-4,6-dichloropyrimidine (1 mmol), neopentylamine (1.05 mmol), and triethylamine (2 mmol) in n-butanol was stirred at 110° C. for 12 h. Extraction and chromatography gave 2-amino-4-chloro-6-neopentylpyrimidine as a yellow solid. TLC: Rf=0.2, 30% EtOAc-hexane.

reactant | 2-amino-4,6-dichloropyrimidine | 1 mmol | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | neopentylamine | 1.05 mmol | C(C(C)(C)C)N | C5H13N
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-amino-4-chloro-6-neopentylpyrimidine | NC1=NC(=CC(=N1)Cl)CC(C)(C)C | C9H14ClN3
